US05206414
DE-A-23 64 121 discloses a further process in which, for example, 2,6-di-tert-butylphenol, n-octadecylalcohol and methyl methacrylate can be reacted directly in the presence of sodium methoxide to give n-octadecyl β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate.

reactant | 2,6-di-tert-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | n-octadecylalcohol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | sodium methoxide | C[O-].[Na+]
product | n-octadecyl β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCCCCCCCCCCCCCCCCC | C35H62O3
